US06984646B2
4-(2-Fluorobenzoyl)-6,7,8,9-tetrahydropyrido[1,2-a]benzimidazol-1(5H)-one
The compound is prepared as described in example 20 with 200 mg (0.54 mmol) of 1-(2-Fluorophenyl)-2-(4,5,6,7-tetrahydro-1H-benzimidazol-2-yl)ethanone hydrochloride (example XXXXVII, 58.6 mg (1.08 mmol) of sodium methylate and 45.6 mg (0.54 mmol) methyl propiolate.

reactant | 1-(2-Fluorophenyl)-2-(4,5,6,7-tetrahydro-1H-benzimidazol-2-yl)ethanone hydrochloride | 0.54 mmol, 200 mg | Cl.FC1=C(C=CC=C1)C(CC1=NC2=C(N1)CCCC2)=O
reactant | sodium methylate | 1.08 mmol, 58.6 mg | C[O-].[Na+]
reactant | methyl propiolate | 0.54 mmol, 45.6 mg | C(C#C)(=O)OC | C4H4O2
product | 4-(2-Fluorobenzoyl)-6,7,8,9-tetrahydropyrido[1,2-a]benzimidazol-1(5H)-one | FC1=C(C(=O)C=2C=CC(N3C2NC2=C3CCCC2)=O)C=CC=C1 | C18H15FN2O2
